US07825256B2
A solution of [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetonitrile (37 mg, 91 μmol), sodium azide (12 mg, 184 μmol) and zinc (II) bromide (10 mg, 46 μmol) in 2:1H2O/iPrOH (1 mL) was heated to 150° C. for 24 h. The reaction mixture was cooled to r.t. prior to loading directly onto a SiO2 column (CH2Cl2 to 4:1 CH2Cl2/MeOH) to afford 14 mg (35%) of N′-benzo[1,3]dioxol-5-ylmethyl-N-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-N-(1H-tetrazol-5-ylmethyl)-propane-1,3-diamine as a white solid. [M+H]+ 441.01; 1H NMR (400 MHz, CD3OD) δ 8.35 (s, 1H), 7.74 (s, 1H), 7.07 (s, 1H), 6.85-6.74 (m, 3H), 5.92 (s, 2H), 4.43 (s, 2H), 4.06 (s, 2H), 3.81 (br s, 2H), 3.31 (t, 2H), 3.06 (t, 2H), 2.17 (tt, 2H).

reactant | [{3-[(benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetonitrile | 91 μmol, 37 mg | O1COC2=C1C=CC(=C2)CNCCCN(C2=NC(=NS2)N2C=NC=C2)CC#N | C18H19N7O2S
reactant | sodium azide | 184 μmol, 12 mg | [N-]=[N+]=[N-].[Na+]
reactant | iPrOH | 1 mL | CC(C)O | C3H8O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | zinc (II) bromide | 46 μmol, 10 mg | [Br-].[Zn+2].[Br-]
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N′-benzo[1,3]dioxol-5-ylmethyl-N-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-N-(1H-tetrazol-5-ylmethyl)-propane-1,3-diamine | 14 mg, 35% | O1COC2=C1C=CC(=C2)CNCCCN(CC2=NN=NN2)C2=NC(=NS2)N2C=NC=C2 | C18H20N10O2S
